US03959263
Diethyl trans-2-(3-hydroxy-3-methyl-1-octenyl)cyclopropane-1,1-dicarboxylate (1; R1 = C2H5 ; R2, R4 and R5 = H, R6 = CH3 and n = 3)
A solution of the lower alkyl magnesium halide, methyl magnesium iodide, prepared from 24.31 g of magnesium turnings and 157 g of methyl iodide in 1000 ml of ether, is cooled to -70°. Diethyl trans-2-(3-oxo-1-octenyl)cyclopropane-1,1-dicarboxylate (124.2 g); described in Example 3, in 600 ml ether is added slowly taking care that reaction mixture temperature does not exceed -45°. The mixture is stirred 75 min. at the temperature range -50° to -45°. Aqueous saturated NH4Cl solution is added slowly keeping the temperature of the reaction mixture below -55°. The mixture is diluted with water and extracted with 1500 ml ether. The ether layer is washed with saturated NaCl solution twice, then with 10% sodium thiosulfate solution twice, again with saturated NaCl solution, dried (Na2SO4) and concentrated to give a greenish yellow oil. The oil is dissolved in ethyl acetate-benzene (3:17) and poured through a column of silica gel. The eluate is concentrated to yield the title compound, nmr (CDCl3) δ 0.88 (t, J = 5, 3H), 2.45 (q, 2H), 4.13 (q, 2H), 5.14 (2×d, J = 16.8, 1H), 5.72 (d, J = 16, 1H).

reactant | methyl magnesium iodide | C[Mg]I
reactant | magnesium | 24.31 g | [Mg] | Mg
reactant | methyl iodide | 157 g | CI | CH3I
reactant | Diethyl trans-2-(3-oxo-1-octenyl)cyclopropane-1,1-dicarboxylate | 124.2 g | O=C(/C=C/C1C(C1)(C(=O)OCC)C(=O)OCC)CCCCC | C17H26O5
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 1000 ml | CCOCC | C4H10O
solvent | ether | 600 ml | CCOCC | C4H10O
solvent | water | O | H2O
solvent | ethyl acetate benzene | C(C)(=O)OCC.C1=CC=CC=C1
product | Diethyl trans-2-(3-hydroxy-3-methyl-1-octenyl)cyclopropane-1,1-dicarboxylate | OC(/C=C/C1C(C1)(C(=O)OCC)C(=O)OCC)(CCCCC)C | C18H30O5
